US08791123B2
Step B: Preparation of (R)-2-(2,5-difluorophenyl)pyrrolidine
To (R)-tert-butyl 2-(2,5-difluorophenyl)pyrrolidine-1-carboxylate (23.9 g, 84.4 mmol) was added 4N HCl in dioxane (56.2 mL). After stirring at ambient temperature for 2 hours, ether (200 mL) was added and the mixture was stirred for 10 minutes. The resulting slurry was filtered, yielding the title compound hydrochloride salt as a white solid (17.2 g). To obtain the free base, the HCl salt product was dispersed in a mixture of EtOAc (200 mL) and NaOH solution (100 mL, 2 N aq.) The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic extracts were filtered and concentrated to give the desired product as a liquid (13.2 g, 85% yield).

reactant | (R)-tert-butyl 2-(2,5-difluorophenyl)pyrrolidine-1-carboxylate | 84.4 mmol, 23.9 g | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H19F2NO2
reactant | HCl | 4N | Cl | ClH
reactant | ether | 200 mL | CCOCC | C4H10O
solvent | dioxane | 56.2 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(2,5-difluorophenyl)pyrrolidine | FC1=C(C=C(C=C1)F)[C@@H]1NCCC1 | C10H11F2N
